US07091220B2
[[2-(4-Fluoro-phenyl)-1H-indol-3-yl]-(3-phenoxy-phenyl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 2-(4-fluoro-phenyl)-1H-indole and (3-phenoxy-benzylidene)-dimethylammonium chloride, which had been prepared in accordance with example 44 from 3-phenoxy-benzaldehyde and dimethylamine.

reactant | 2-(4-fluoro-phenyl)-1H-indole | FC1=CC=C(C=C1)C=1NC2=CC=CC=C2C1 | C14H10FN
reactant | (3-phenoxy-benzylidene)-dimethylammonium chloride | [Cl-].O(C1=CC=CC=C1)C=1C=C(C=[N+](C)C)C=CC1
reactant | 3-phenoxy-benzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | dimethylamine | CNC | C2H7N
product | [[2-(4-Fluoro-phenyl)-1H-indol-3-yl]-(3-phenoxy-phenyl)-methyl]-dimethyl-amine | FC1=CC=C(C=C1)C=1NC2=CC=CC=C2C1C(C1=CC(=CC=C1)OC1=CC=CC=C1)N(C)C | C29H25FN2O
